US05550134
(4aR)-(10bR)-4,10b-dimethyl-8-(2-phenylethynyl)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 1 g portion of (4aR)-(10bR)-4,10b-dimethyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one was reacted with 0.4 mL of phenylacetylene in a process substantially similar to that of Example 281 to obtain the desired title product in pure form. mp 205°-208°. FDMS 329.

reactant | (4aR)-(10bR)-4,10b-dimethyl-8-bromo-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | phenylacetylene | 0.4 mL | C1(=CC=CC=C1)C#C | C8H6
product | (4aR)-(10bR)-4,10b-dimethyl-8-(2-phenylethynyl)-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C#CC3=CC=CC=C3)C)=O | C23H23NO
